US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using methyl 2-(2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate, ethyl acetate, 10% palladium-carbon and hydrogen (60 atm kg/cm2), methyl 2-(2-aminoanilino)-5-methylbenzo[b]thiophene-3-carboxylate is obtained.

reactant | methyl 2-(2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate | [N+](=O)([O-])C1=C(NC2=C(C3=C(S2)C=CC(=C3)C)C(=O)OC)C=CC=C1 | C17H14N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-aminoanilino)-5-methylbenzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=CC(=C3)C)C(=O)OC)C=CC=C1 | C17H16N2O2S
